US08383835B2
Preparation and Pyrolysis of Magnesium Lactoyllactate
Magnesium Lactate Dihydrate (PURAMEX® MG) was dehydrated at atmospheric pressure at 185° C. during 4 hours. 20.2 g of the resulting Anhydrate was thoroughly mixed (mortar) with 22.5 g of 80% Lactic Acid (PURAC FCC80). The homogeneous and fairly fluid mixture was left to react at 110° C. for 2.5 hours, which resulted in complete solidification.

reactant | Magnesium Lactate Dihydrate | O.O.C(C(O)C)(=O)[O-].[Mg+2].C(C(O)C)(=O)[O-]
reactant | Lactic Acid | 22.5 g | C(C(O)C)(=O)O | C3H6O3
product | Magnesium Lactoyllactate | C(C(O)C)(=O)OC(C(O)C)=O.[Mg] | InChI=1S/C6H10O5.Mg/c1-3(7)5(9)11-6(10)4(2)8;/h3-4,7-8H,1-2H3;
